### PR TITLE
feat(ErdosProblems) : 287

### LINKED ISSUE #473: Erdős Problem 287
### What is the conjecture
    
https://www.erdosproblems.com/287

  Let $k\geq 2$. Is it true that, for any distinct integers $n_1<\cdots <n_k$ such that
$$1=\frac{1}{n_1}+\cdots+\frac{1}{n_k}$$
we must have $\max(n_{i+1}-n_i)\geq 3$?

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by VikaBrikule**
fixes #473

### CODE REVIEW

**Comment by mo271** [comment]
is this ready for review, @VikaBrikule ?

**Comment by Smetalo** [comment]
Does this resolve #473?

File: FormalConjectures/ErdosProblems/287.lean [hunk 1]
```diff
@@ -0,0 +1,44 @@
...
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 287
+
+*Reference:* [erdosproblems.com/287](https://www.erdosproblems.com/287)
+-/
+
+namespace Erdos287
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/287.lean:26]:
```suggestion

/-- The maximum gap between consecutive terms of a finite sequence `s : Fin k → ℕ`,
i.e., $\max_{0 \le i < k-1} (s(i+1) - s(i))$. -/
```

File: FormalConjectures/ErdosProblems/287.lean [hunk 2]
```diff
@@ -0,0 +1,44 @@
...
+we must have $\max(n_{i+1} - n_i) \geq 3$?
+-/
+@[category research open, AMS 11]
+theorem erdos_287 : answer(sorry) ↔
+    ∀ (k : ℕ) (hk : 2 ≤ k) (s : Fin k → ℕ),
+    StrictMono s → 1 < s ⟨0, by omega⟩ →
+    ∑ i : Fin k, 1/ (s i : ℝ) = 1 →
+    3 ≤ max_gap k s:= by
+  sorry
+
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/287.lean:45]:
```suggestion

/--
The lower bound of $\geq 2$ is equivalent to saying that $1$ is not the sum of reciprocals of
consecutive integers, proved by Erdős [Er32].
-/
@[category research solved, AMS 11]
theorem erdos_287.variants.gap_at_least_two :
    ∀ (k : ℕ) (_ : 2 ≤ k) (s : Fin k → ℕ),
    StrictMono s → 1 < s ⟨0, by omega⟩ →
    ∑ i : Fin k, 1 / (s i : ℝ) = 1 →
    2 ≤ max_gap k s := by
  sorry

/--
The example $1 = \frac{1}{2}+\frac{1}{3}+\frac{1}{6}$ shows that $3$ would be best possible here:
the sequence $(2, 3, 6)$ is a valid Egyptian fraction representation of $1$ with
`max_gap = 3`.
-/
@[category test, AMS 11]
theorem erdos_287.test.best_possible :
    let s : Fin 3 → ℕ := ![2, 3, 6]
    StrictMono s ∧
    1 < s 0 ∧
    ∑ i : Fin 3, 1 / (s i : ℝ) = 1 ∧
    max_gap 3 s = 3 := by
  refine ⟨?_, ?_, ?_, ?_⟩
  · decide
  · decide
  · norm_num [Fin.sum_univ_three, max_gap, show (![2, 3, 6] : Fin 3 → ℕ) 0 = 2 from rfl,
      show (![2, 3, 6] : Fin 3 → ℕ) 1 = 3 from rfl,
      show (![2, 3, 6] : Fin 3 → ℕ) 2 = 6 from rfl]
  · native_decide

/--
For all large $N$, there exists a prime $p \in [N, 2N]$ such that $\frac{p+1}{2}$ is also prime.

This is an open conjecture. If true, it would imply `erdos_287` for all but at most finitely
many exceptions (see `erdos_287.variants.prime_conjecture_implies`).
-/
@[category research open, AMS 11]
theorem erdos_287.variants.prime_conjecture : answer(sorry) ↔
    ∃ N₀ : ℕ, ∀ N : ℕ, N₀ ≤ N →
      ∃ p : ℕ, Nat.Prime p ∧ N ≤ p ∧ p ≤ 2 * N ∧ Nat.Prime ((p + 1) / 2) := by
  sorry

/--
The conjecture `erdos_287` would follow for all but at most finitely many exceptions if it were
known that, for all large $N$, there exists a prime $p \in [N, 2N]$ such that $\frac{p+1}{2}$
is also prime.

More precisely: if the prime conjecture holds, then there exists $k_0$ such that for all
$k \geq k_0$, any Egyptian fraction representation of $1$ with $k$ terms and all terms $> 1$
must have $\max(n_{i+1} - n_i) \geq 3$.
-/
@[category textbook, AMS 11]
theorem erdos_287.variants.prime_conjecture_implies : type_of% erdos_287.variants.prime_conjecture →
    ∃ (k₀ : ℕ), ∀ᵉ (k : ℕ) (hk₀ : k₀ ≤ k) (hk : 2 ≤ k) (s : Fin k → ℕ),
      StrictMono s → 1 < s ⟨0, by omega⟩ →
      ∑ i : Fin k, 1 / (s i : ℝ) = 1 →
      3 ≤ max_gap k s := by
  sorry

```
Perhaps we can add these additional statements?

the `gap_at_least_two` can be proved with AlphaProof: 
```lean
use fun and R M A B x =>match and with | S+1=>.trans (?_) (by rw [max_gap])
by_cases h : ∀x,M x =M 0+ ↑x.1
· replace x:∑ a ∈.range (S+1),1/(M 0+a:ℚ)=1
  · zify [funext h▸x, ←@Rat.cast_inj ℝ, Finset.sum_range]
    exact_mod_cast funext h▸x
  apply absurd (congr_arg (.*∏ a ∈.range (S+1),(M 0+a:ℚ)) x) ∘(Finset.sum_mul _ _ _).trans_ne
  rw [← Finset.sum_congr rfl fun and β=>by rw [← Finset.prod_erase_mul _ _ β,mul_comm_div, one_mul,eq_div_iff (mod_cast B.ne_bot ∘Nat.eq_zero_of_add_eq_zero_right)]]
  by_cases h : ∀ a ∈ Finset.range (S+1), M 0+ a ∣∏ a ∈.erase (.range (S + 1)) ↑a,(M 0+a)
  · use(Nat.exists_prime_lt_and_le_two_mul ((M 0+S)/2) fun and=>? _).elim fun and K V=> (K.1.prime.exists_mem_finset_dvd (.trans (?_) (h (and-M 0) (List.mem_range.2 (by valid))))).elim ?_
    · cases and▸Nat.div_pos.comp (le_add_right) B (by decide)
    · rw[Nat.add_sub_of_le (not_lt.1 fun and=>(( Finset.sum_le_sum fun a s=>one_div_le_one_div_of_le (mod_cast B.le) (le_add_of_nonneg_right (by bound))).trans_lt ?_).ne x)]
      exact (lt_of_le_of_lt (by rw [ Finset.sum_const,nsmul_eq_mul,mul_one_div, Finset.card_range])) ((div_lt_one (by exact_mod_cast and.pos)).2 (by exact_mod_cast (by valid)))
    · use fun andexact ⟨s, a, _⟩=> Finset.ne_of_mem_erase s (by match a with|0=>cases‹_›▸le_add_right B|1=>omega | S+2=>use absurd (mul_add and S 2) ((by valid ∘ Finset.mem_range.1) ( Finset.erase_subset _ _ s)))
  · refine show@_≠1 * ( _) from mod_cast h ∘ fun and a s=>by_contra fun and' =>absurd (and▸ (( Finset.dvd_prod_of_mem _) s).mul_left (1)) (Nat.dvd_iff_mod_eq_zero.not.mpr.comp ( Finset.sum_nat_mod _ _ _).trans_ne ? _)
    rwa[ Finset.sum_eq_single_of_mem a s fun and I I=>(( Finset.dvd_prod_of_mem _) (by norm_num[I.symm,s])).modEq_zero_nat,Nat.mod_eq_of_lt.comp (Nat.mod_lt _) (by positivity),Ne,←Nat.dvd_iff_mod_eq_zero]
· use not_lt.1 (h ∘ Fin.induction rfl ∘ fun and R L=>le_antisymm (by apply L▸tsub_le_iff_left.1 ↑(Nat.le_of_lt_succ.comp ( Finset.le_sup (Finset.mem_univ R)).trans_lt and) ) (L.symm.trans_lt (A (by constructor))))
```
But that proof is too ugly to be added here. We could clean it up or leave as `sorry` or use the `formal_proof` at mechanism to link to it..

**Review by mo271 — COMMENTED** [review]
LGTM, mathematically correct, just a missing docstring and I propose to add the addtional material

**Comment by mo271** [comment]
@VikaBrikule the reason the build fails is: 
```
warning: FormalConjectures/ErdosProblems/287.lean:39:8: Declarations tagged `@[category research open]`, `@[category research solved]`, or `@[category textbook]` must have a docstring.
```

File: FormalConjectures/ErdosProblems/287.lean [hunk 3]
```diff
@@ -0,0 +1,107 @@
...
+namespace Erdos287
+
+/-- The maximum gap between consecutive terms of a finite sequence `s : Fin k → ℕ`,
+i.e., $\max_{0 \le i < k-1} (s(i+1) - s(i))$. -/
+def max_gap (k : ℕ) (s : Fin k → ℕ ) : ℕ  :=
+   Finset.sup Finset.univ (fun i : Fin (k - 1) =>
+      s  ⟨i.val + 1, by omega⟩ - s ⟨i.val, by omega⟩)
+
+/-
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/287.lean]:
```suggestion
/--
```

**Comment by mo271** [comment]
Thanks again!

**Review by mo271 — APPROVED** [review]
